US09112157B2
A solution of 3-((4-formylphenyl)(7-(4′-(naphthalen-1-yl(phenyl)amino)-[1,1′-biphenyl]-4-yl)-9,9-bis(3-phenylpropyl)-9H-fluoren-2-yl)amino)benzaldehyde (1.88 g, 0.0019 mol) was prepared in anhydrous THF (100 mL) in a clean, dry, and purged round bottom flask. To a dry round bottom flask equipped with an addition funnel methyltriphenylphosphonium bromide (2.02 g, 0.0057 mol) was added. Tetrahydrofuran (200 mL) was added to this reaction flask. Potassium tert-butoxide (0.66 g, 0.0059 mol) was then added to the reaction flask, and the flask was subsequently covered with aluminum foil. The solution of 3-((4-formylphenyl)(7-(4′-(naphthalen-1-yl(phenyl)amino)-[1,1′-biphenyl]-4-yl)-9,9-bis(3-phenylpropyl)-9H-fluoren-2-yl)amino)benzaldehyde/THF was then transferred to the addition funnel via cannula. This solution was then added to the reaction flask from the addition funnel dropwise over the course of twenty minutes. The reaction solution was allowed to stir for approximately one hour and completion was then monitored via thin-layer chromatography. Following confirmation of completion, the reaction solution was filtered through a celite/silica gel (treated with triethylamine) plug. Solvent was removed by rotary evaporation. The resulting solids were placed under vacuum. Crude mixture was purified by chromatography using ethyl acetate/hexanes as an eluent. Precipitation from a minimum amount of ethyl acetate into methanol yielded NMR pure product.

reactant | Potassium tert-butoxide | 0.0059 mol, 0.66 g | CC(C)([O-])C.[K+]
reactant | aluminum | [Al] | Al
reactant | 3-((4-formylphenyl)(7-(4′-(naphthalen-1-yl(phenyl)amino)-[1,1′-biphenyl]-4-yl)-9,9-bis(3-phenylpropyl)-9H-fluoren-2-yl)amino)benzaldehyde THF | C(=O)C1=CC=C(C=C1)N(C=1C=C(C=O)C=CC1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)(CCCC1=CC=CC=C1)CCCC1=CC=CC=C1.C1CCOC1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 0.0057 mol, 2.02 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-((4-formylphenyl)(7-(4′-(naphthalen-1-yl(phenyl)amino)-[1,1′-biphenyl]-4-yl)-9,9-bis(3-phenylpropyl)-9H-fluoren-2-yl)amino)benzaldehyde | 0.0019 mol, 1.88 g | C(=O)C1=CC=C(C=C1)N(C=1C=C(C=O)C=CC1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)(CCCC1=CC=CC=C1)CCCC1=CC=CC=C1 | C73H58N2O2
